US07067517B2
Morpholine-4-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol and morpholine-4-carbonyl chloride. The crude product was purified by preparative HPLC (37%, white crystals). HPLC-MS m/z=369.1 (M+1), Rt: 4.3 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)O)(F)F | C12H8F3NO2
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | Morpholine-4-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCOCC1)(F)F | C17H15F3N2O4
